US05859036
(4-methanesulphonylphenyl)-ethanone
A solution of 1036 g of oxone and 11.7 g of EDTA (Ethylene diamine tetraacetic acid) dissolved in 3.8 l of water is added dropwise to a solution of (4-methylthiophenyl)ethanone (prepared according to J. Am. Chem. Soc. 1952 p. 5475) in 1 l of acetone and 1.1 l of water, the temperature being kept below 32° C. The reaction mixture is stirred for 16 h after the end of the addition, then 550 g of sodium metabisulphite are added portionwise. The reaction mixture is then filtered, the solid obtained is taken up in water, dried in the oven and recrystallised from ethanol.

reactant | oxone | 1036 g | OOS(=O)[O-].[K+]
reactant | EDTA | 11.7 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | (4-methylthiophenyl)ethanone | CC=1C=C(SC1)C(C)=O | C7H8OS
reactant | sodium metabisulphite | 550 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 3.8 l | O | H2O
reactant | water | 1.1 l | O | H2O
solvent | acetone | 1 l | CC(=O)C | C3H6O
product | (4-methanesulphonylphenyl)-ethanone | CS(=O)(=O)C1=CC=C(C=C1)C(C)=O | C9H10O3S
